US05580865
4-tert-Butylcarbonyl-2,3-dimethyl-7α-methoxy-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (compound 5)
A solution of 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide (300 mg), prepared as described in PCT EP 90/02189 in dimethyl sulphoxide (3 ml), was treated at room temperature with triethylamine (0.110 ml) and methyl iodide (0.135 ml). After 1 hr, the reaction mixture was diluted with ethyl acetate, sequentially washed with a dilute solution of hydrochloric acid and brine and eventually dried over Na2SO4. Removal of the solvent and flash chromatography of the residue afforded the title compound as a white solid (160 mg).

reactant | 4-tert-butylcarbonyl-7α-methoxy-3-methyl-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 300 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=S)(=O)=O)C2=NN=NN2C)C | C15H21N5O4S2
reactant | triethylamine | 0.110 ml | C(C)N(CC)CC | C6H15N
reactant | methyl iodide | 0.135 ml | CI | CH3I
solvent | dimethyl sulphoxide | 3 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-tert-Butylcarbonyl-2,3-dimethyl-7α-methoxy-2-(1-methyl-1,2,3,4-tetrazol-5-yl)thio-3-cephem 1,1-dioxide | 160 mg | C(C)(C)(C)C(=O)C1=C(C(S([C@H]2N1C([C@@H]2OC)=S)(=O)=O)(C2=NN=NN2C)C)C | C16H23N5O4S2
